US07531545B2
Step A: [2-Methyl-1-(methyl-phenethyl-carbamoyl)-propyl]-carbamic acid tert-butyl ester
A mixture of N-methyl-phenethyl-amine (2.2 mL, 15.3 mmol), 2-tert-butoxycarbonylamino-3-methyl-butyric acid (3.33 g, 15.3 mmol), HBTU (8.7 g, 22.95 mmol), DIPEA (6.1 mL, 33.7 mmol) and DMF (75 mL) was stirred at room temperature for 14 hours. To the resulting mixture was added sodium bicarbonate (400 mL) and the desired product was extracted with ethyl acetate (400 mL×2). The combined organic layers were washed with water, dried over MgSO4 and concentrated under reduced pressure to yield an oil. The oil was purified by column chromatography (50% EtOAc/heptane) to yield a residue.

reactant | N-methyl-phenethyl-amine | 15.3 mmol, 2.2 mL | CNCCC1=CC=CC=C1 | C9H13N
reactant | 2-tert-butoxycarbonylamino-3-methyl-butyric acid | 15.3 mmol, 3.33 g | C(C)(C)(C)OC(=O)NC(C(=O)O)C(C)C | C10H19NO4
reactant | HBTU | 22.95 mmol, 8.7 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 33.7 mmol, 6.1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | sodium bicarbonate | 400 mL | C([O-])(O)=O.[Na+]
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | [2-Methyl-1-(methyl-phenethyl-carbamoyl)-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC(C(C)C)C(N(CCC1=CC=CC=C1)C)=O)=O | C19H30N2O3
